* source Q1
R_R1         N00634 N00963  0.5  
C_C1         N00603 N00634  1 IC=0 
R_R2         0 N00963  1  
C_C2         0 N00634  1 IC=0 
R_R3         N00682 N00634  6  
E_E1         N00603 N00682 N00634 N00963 2
V_V1         N004210 0 1
X_U1         N004210 N00682 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
