* source Q2
I_I3         N00574 N00644 DC 3  
R_R1         N00574 N00971  1  
R_R2         N00644 N00971  4  
V_V3         N05141 0 8
R_R3         0 N00574  2  
X_H1    N05141 N00971 N00644 0 SCHEMATIC1_H1 

.subckt SCHEMATIC1_H1 1 2 3 4  
H_H1         3 4 VH_H1 3
VH_H1         1 2 0V
.ends SCHEMATIC1_H1
