* source Q3
C_C1         N084370 N02521  100u IC=0 
I_I1         0 N00884 DC 5  
R_R1         0 N00884  4  
R_R2         0 N00291  6  
R_R3         N00291 N00884  2  
R_R7         0 N02940  5  
E_E1         N00291 N00884 N00884 0 2
R_R6         N02898 N02940  6  
X_U1         0 N084370 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
V_V1         N02898 0 20
R_R8         N00291 N02521  2  
